US06919332B2
A mixture of 5-(4-methoxy-phenoxy)-1H-indazole (0.25 grams, 1.0 mmol), 4-fluorobromobenzene (0.23 mL, 0.36 grams, 2.08 mmol), cuprous oxide (0.15 grams, 1.0 mmol), potassium carbonate (0.29 grams, 2.08 mmol) and N,N-dimethylacetamide (0.25 mL) was stirred at 160° C. for 3 hours. After cooling to room temperature, the mixture was diluted with water, extracted 3 times with ethyl acetate, and the combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with a gradient of ethyl acetate in hexanes (0-100%), affording 1-(4-Fluoro-phenyl)-5-(4-methoxy-phenoxy)-1H-indazole as a colorless solid. MS: 335.3 [M+H]+

reactant | 5-(4-methoxy-phenoxy)-1H-indazole | 1.0 mmol, 0.25 grams | COC1=CC=C(OC=2C=C3C=NNC3=CC2)C=C1 | C14H12N2O2
reactant | 4-fluorobromobenzene | 2.08 mmol, 0.23 mL, 0.36 grams | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | potassium carbonate | 2.08 mmol, 0.29 grams | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylacetamide | 0.25 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 1-(4-Fluoro-phenyl)-5-(4-methoxy-phenoxy)-1H-indazole | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)OC1=CC=C(C=C1)OC | C20H15FN2O2
